US04983633
N-[4-[2-(Dimethylamino)ethoxy]benzyl]-3,4-dimethoxybenzamide
To a cooled solution of 20.0 g of 4-[2-(dimethylamino)ethoxy]benzylamine in 60 ml of toluene was added a solution of 21.7 g of 3,4-dimethoxybenzoyl chloride (which was prepared with 19.7 g of 3,4-dimethoxybenzoic acid and 38.5 g of thionyl chloride in the usual manner) in 60 ml of toluene with stirring. The mixture was stirred at room temperature for 30 minutes. To the mixture was added 120 ml of water and 1 ml of concentrated hydrochloric acid. The aqueous layer was separated, washed with 20 ml of toluene and made alkaline with 20% sodium hydroxide solution to give a precipitate, which was washed with isopropyl ether, of 37.0 g of pale brownish crystals. Recrystallization of the crystals from ethanol and isopropyl ether gave the title compound as colorless needles, m.p. 111°-112° C.

reactant | 4-[2-(dimethylamino)ethoxy]benzylamine | 20.0 g | CN(CCOC1=CC=C(CN)C=C1)C | C11H18N2O
reactant | 3,4-dimethoxybenzoyl chloride | 21.7 g | COC=1C=C(C(=O)Cl)C=CC1OC | C9H9ClO3
reactant | 3,4-dimethoxybenzoic acid | 19.7 g | COC=1C=C(C(=O)O)C=CC1OC | C9H10O4
reactant | thionyl chloride | 38.5 g | S(=O)(Cl)Cl | Cl2OS
reactant | hydrochloric acid | 1 ml | Cl | ClH
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 120 ml | O | H2O
product | N-[4-[2-(Dimethylamino)ethoxy]benzyl]-3,4-dimethoxybenzamide | CN(CCOC1=CC=C(CNC(C2=CC(=C(C=C2)OC)OC)=O)C=C1)C | C20H26N2O4
